US03989707
A mixture of 51 parts of methyl 4-(4-chloro-2nitrophenylamino)-3-methyl-1-piperidinecarboxylate, 270 parts of tetrahydrofuran and 96 parts of methanol is hydrogenated at normal pressure and at normal temperature with 15 parts of raney-nickel catalyst. After the calculated amount of hydrogen is taken up (6 hours), the catalyst is filtered off and the filtrate is evaporated. The oily residue is triturated in warm 2,2'-oxybispropane. After cooling, the product is filtered off, pulverized in a mortar and triturated again in 2,2'-oxybispropane. The product is filtered off and dried, yielding methyl 4-(2-amino-4-chlorophenylamino)-3-methyl-1-piperidinecarboxylate.

reactant | methyl 4-(4-chloro-2nitrophenylamino)-3-methyl-1-piperidinecarboxylate | ClC1=CC(=C(C=C1)NC1C(CN(CC1)C(=O)OC)C)[N+](=O)[O-] | C14H18ClN3O4
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | hydrogen | [H][H] | H2
catalyst | raney-nickel | [Ni] | Ni
solvent | methanol | CO | CH4O
product | methyl 4-(2-amino-4-chlorophenylamino)-3-methyl-1-piperidinecarboxylate | NC1=C(C=CC(=C1)Cl)NC1C(CN(CC1)C(=O)OC)C | C14H20ClN3O2
